US07307084B2
M. 6-Bromo-1,2-dimethyl-1H-benzimidazol-4-ylamine
To a solution of 19 g (70 mmol) 6-bromo-1,2-dimethyl-4-nitro-1H-benzimidazole in 250 ml methanol were added 13.7 g (84 mmol) iron(III) chloride and 6 g activated charcoal. The reaction mixture was heated to 80° C. and 17 ml hydrazine hydrate (95%) were slowly added. After refluxing for 3 h, the hot reaction mixture was filtered through celite and the precipitate was washed with methanol and dichloromethane. The filtrate was evaporated to give a suspension, which was treated with n-heptane. The precipitate was collected, washed with n-heptane and dried in vacuo to give 13.3 g (79%) of the title compound as a white solid. m.p. 206-209° C.

reactant | 6-bromo-1,2-dimethyl-4-nitro-1H-benzimidazole | 70 mmol, 19 g | BrC=1C=C(C2=C(N(C(=N2)C)C)C1)[N+](=O)[O-] | C9H8BrN3O2
reactant | charcoal | C | CH4
reactant | hydrazine hydrate | 17 ml | O.NN
reactant | n-heptane | CCCCCCC | C7H16
solvent | methanol | 250 ml | CO | CH4O
catalyst | iron(III) chloride | 84 mmol, 13.7 g | [Fe](Cl)(Cl)Cl
product | 6-Bromo-1,2-dimethyl-1H-benzimidazol-4-ylamine | 13.3 g, 79% | BrC=1C=C(C2=C(N(C(=N2)C)C)C1)N | C9H10BrN3
